US07238724B2
ethyl N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-prolinate
A solution of ethyl (5S)-5-ethyl-L-prolinate (2.5 mmol), 2-(1H-benzotriazol-1yl)-1,1,3,3-tetramethyluronium tetrafluoroborate (1.00 g, 3.13 mmol) and N-(tert-butoxycarbonyl)-L-leucine hydrate (0.779 g, 3.12 mmol) were mixed in 4 mL of dimethylformamide. Triethylamine (approx 1.1 mL) was added until the pH reached about 6 (wet pH paper). After stirring for 16 hours, the mixture was concentrated under reduced pressure and the residue partitioned between 1 N HCl and ethyl acetate. The organic layer was washed with saturated NaHCO3, dried (Na2SO4), filtered, concentrated under reduced pressure and purified by flash chromatography (30% to 50% ethyl acetate/hexane) to provide the titled compound. MS (ESI) m/z 385 (M+H)+.

reactant | ethyl (5S)-5-ethyl-L-prolinate | 2.5 mmol | C(C)[C@H]1CC[C@H](N1)C(=O)OCC | C9H17NO2
reactant | 2-(1H-benzotriazol-1yl)-1,1,3,3-tetramethyluronium tetrafluoroborate | 3.13 mmol, 1.00 g | F[B-](F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | N-(tert-butoxycarbonyl)-L-leucine hydrate | 3.12 mmol, 0.779 g | O.C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)O
reactant | Triethylamine | approx 1.1 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | ethyl N-(tert-butoxycarbonyl)-L-leucyl-(5S)-5-ethyl-L-prolinate | C(C)(C)(C)OC(=O)N[C@@H](CC(C)C)C(=O)N1[C@H](C(=O)OCC)CC[C@@H]1CC | C20H36N2O5
